US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-methyl-1H-pyrazole-5-carboxamide
To a solution of 1-methyl-1H-pyrazole-5-carboxylic acid (106 mg, 0.840 mmol) in tetrahydrofuran (2.0 mL) were added N,N-dimethylformamide (1 drop) and oxalyl chloride (91 μL, 1.01 mmol), and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (1 mL) and added to a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.646 mmol) in N,N-dimethylacetamide (5.0 mL). The mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with saturated aqueous sodium hydrogencarbonate solution, and extracted three times with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→95/5) and precipitated from ethyl acetate/hexane to give the title compound (241 mg, 89%) as a white powder.

reactant | 1-methyl-1H-pyrazole-5-carboxylic acid | 0.840 mmol, 106 mg | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | oxalyl chloride | 1.01 mmol, 91 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.646 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5.0 mL | CN(C(C)=O)C | C4H9NO
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-methyl-1H-pyrazole-5-carboxamide | 241 mg, 89% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC=NN2C)C1 | C21H19N7O3
